US09056873B2
Preparation 12: 5-Cyanobenzo[b]thiophen-2-ylboronic acid
To a cold (−78° C.) solution of benzo[b]thiophene-5-carbonitrile (276 mg, 1.734 mmol) in anhydrous THF (5 mL) was added n-butyllithium (0.763 mL, 1.907 mmol) dropwise. The reaction mixture was stirred at −78° C. for 60 minutes. Next, a solution of triisopropyl borate (0.478 mL, 2.080 mmol) was added. The reaction mixture was stirred for 30 minutes stirring at −78° C. and then was allowed to warm to room temperature over a 2 hour period. Solvent was removed to give the title compound, which was used without purification or work up.

reactant | benzo[b]thiophene-5-carbonitrile | 1.734 mmol, 276 mg | S1C2=C(C=C1)C=C(C=C2)C#N | C9H5NS
reactant | n-butyllithium | 1.907 mmol, 0.763 mL | C(CCC)[Li]
reactant | triisopropyl borate | 2.080 mmol, 0.478 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Cyanobenzo[b]thiophen-2-ylboronic acid | C(#N)C1=CC2=C(SC(=C2)B(O)O)C=C1 | C9H6BNO2S
